US06136800
A suspension of 2.0 g of 3-hydroxy-estra-1,3,5(10),8-tetraen-17-one in 20 ml of tetrahydrofuran and 2.0 ml of dihydropyran is stirred with 9.4 mg of para-toluenesulfonic acid for 3 hours at room temperature. Then, 0.3 ml of pyridine is added, diluted with ethyl acetate, washed with sodium bicarbonate solution as well as with saturated sodium chloride solution, dried on sodium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with hexane/acetone/triethylamine. 2.4 g of 3-tetrahydropyranyloxy-estra-1,3,5(10),8-tetraen-17-one is obtained as colorless crystals with a melting point of 122-125° C., [α]D22 =+0.00° (c=0.515% in pyridine).

reactant | 3-hydroxy-estra-1,3,5(10),8-tetraen-17-one | 2.0 g | OC1=CC=2CCC=3[C@@H]4CCC([C@@]4(C)CCC3C2C=C1)=O | C18H20O2
reactant | para-toluenesulfonic acid | 9.4 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | pyridine | 0.3 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | dihydropyran | 2.0 ml | O1CCCC=C1 | C5H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-tetrahydropyranyloxy-estra-1,3,5(10),8-tetraen-17-one | 2.4 g | O1C(CCCC1)OC1=CC=2CCC=3[C@@H]4CCC([C@@]4(C)CCC3C2C=C1)=O | C23H28O3
